* Arm C oscillator 11: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm C oscillator 11: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.2563
Cg0 i1_A 0 6.232380e-17
Cg1 nand_Y 0 6.232380e-17
Cc0 i1_A nand_B 1.910040e-17
Cx0 i1_A 0 1.102550e-16
Rn1_1 i1_Y i2_A 19.4973
Cg2 i2_A 0 3.585910e-17
Cg3 i1_Y 0 3.585910e-17
Cx1 i2_A 0 5.337830e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 9.533350e-17
Cg5 i10_Y 0 9.533350e-17
Cc1 i11_A i12_A 3.999180e-17
Cc2 i11_A i9_A 0.000000e+00
Cc3 i11_A i10_A 5.876220e-17
Rn11_3 i11_Y i12_A 21.1313
Cg6 i12_A 0 1.132980e-16
Cg7 i11_Y 0 1.132980e-16
Cc4 i12_A i13_A 4.216780e-17
Rn12_4 i12_Y i13_A 21.4348
Cg8 i13_A 0 1.560640e-16
Cg9 i12_Y 0 1.560640e-16
Cc5 i13_A i14_A 3.028690e-17
Cc6 i13_A i15_A 0.000000e+00
Rn13_5 i13_Y i14_A 21.3813
Cg10 i14_A 0 1.417400e-16
Cg11 i13_Y 0 1.417400e-16
Cc7 i14_A i15_A 3.028690e-17
Rn14_6 i14_Y i15_A 21.1313
Cg12 i15_A 0 1.442710e-16
Cg13 i14_Y 0 1.442710e-16
Cc8 i15_A s716_12 2.125550e-17
Rn15_7 i15_Y s716_12 20.5768
Rn15_8 s716_12 buf_A 10.2464
Rn15_9 s716_12 i16_A 9.9920
Cg14 i16_A 0 3.262550e-17
Cg15 buf_A 0 5.165380e-17
Cg16 i15_Y 0 6.758200e-17
Cg17 s716_12 0 1.518610e-16
Cc9 s716_12 nand_B 1.530470e-16
Cc10 EN s716_12 1.513330e-16
Cx2 i16_A 0 6.894900e-17
Cx3 buf_A 0 9.416420e-17
Rn16_10 i16_Y i17_A 19.4973
Cg18 i17_A 0 3.038620e-17
Cg19 i16_Y 0 3.038620e-17
Cx4 i17_A 0 9.572150e-17
Rn17_11 i17_Y i18_A 19.4973
Cg20 i18_A 0 3.038620e-17
Cg21 i17_Y 0 3.038620e-17
Cx5 i18_A 0 9.572150e-17
Rn18_12 i18_Y i19_A 19.4973
Cg22 i19_A 0 3.038620e-17
Cg23 i18_Y 0 3.038620e-17
Cx6 i19_A 0 9.572150e-17
Rn19_13 i19_Y i20_A 19.4973
Cg24 i20_A 0 3.038620e-17
Cg25 i19_Y 0 3.038620e-17
Cx7 i20_A 0 9.572150e-17
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 3.585910e-17
Cg27 i2_Y 0 3.585910e-17
Cx8 i3_A 0 5.337830e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 3.038620e-17
Cg29 i20_Y 0 3.038620e-17
Cx9 i21_A 0 9.572150e-17
Rn21_16 i21_Y i22_A 19.4973
Cg30 i22_A 0 3.887540e-17
Cg31 i21_Y 0 3.887540e-17
Cx10 i22_A 0 9.277880e-17
Rn22_17 i22_Y i23_A 30.2652
Cg32 i23_A 0 1.186390e-16
Cg33 i22_Y 0 1.186390e-16
Cc11 i23_A i24_A 2.808530e-17
Cx11 i23_A 0 8.488220e-18
Cx12 i23_A 0 7.905360e-17
Cx13 i23_A 0 4.033180e-17
Cx14 i23_A 0 1.257240e-16
Rn23_18 i23_Y i24_A 20.8277
Cg34 i24_A 0 1.179810e-16
Cg35 i23_Y 0 1.179810e-16
Cc12 i24_A i25_A 2.959480e-17
Cc13 i24_A i26_A 0.000000e+00
Cx15 i24_A 0 2.664800e-17
Rn24_19 i24_Y i25_A 21.1313
Cg36 i25_A 0 7.887800e-17
Cg37 i24_Y 0 7.887800e-17
Cc14 i25_A i26_A 3.028690e-17
Cc15 i25_A i27_A 0.000000e+00
Cx16 i25_A 0 1.445910e-16
Rn25_20 i25_Y i26_A 21.3813
Cg38 i26_A 0 1.310300e-16
Cg39 i25_Y 0 1.310300e-16
Cc16 i26_A i27_A 3.028690e-17
Cc17 i26_A i28_A 0.000000e+00
Cx17 i26_A 0 2.417650e-17
Rn26_21 i26_Y i27_A 21.1313
Cg40 i27_A 0 7.738800e-17
Cg41 i26_Y 0 7.738800e-17
Cc18 i27_A i28_A 3.028690e-17
Cc19 i27_A i29_A 0.000000e+00
Cx18 i27_A 0 1.450400e-16
Rn27_22 i27_Y i28_A 21.3813
Cg42 i28_A 0 1.310300e-16
Cg43 i27_Y 0 1.310300e-16
Cc20 i28_A i29_A 3.028690e-17
Cc21 i28_A i30_A 0.000000e+00
Cx19 i28_A 0 2.417650e-17
Rn28_23 i28_Y i29_A 21.1313
Cg44 i29_A 0 8.866440e-17
Cg45 i28_Y 0 8.866440e-17
Cc22 i29_A i30_A 2.609490e-17
Cx20 i29_A 0 1.401460e-16
Rn29_24 i29_Y i30_A 21.3813
Cg46 i30_A 0 1.485450e-16
Cg47 i29_Y 0 1.485450e-16
Cc23 i30_A nand_B 1.669550e-17
Cx21 i30_A 0 3.850670e-17
Cx22 i30_A 0 1.129730e-17
Rn3_25 i3_Y i4_A 19.4973
Cg48 i4_A 0 3.585910e-17
Cg49 i3_Y 0 3.585910e-17
Cx23 i4_A 0 5.337830e-17
Rn30_26 i30_Y nand_B 35.0911
Cg50 nand_B 0 2.257790e-16
Cg51 i30_Y 0 2.257790e-16
Cc24 EN nand_B 1.746000e-16
Cx24 nand_B 0 4.887220e-16
Cx25 nand_B 0 2.147570e-17
Rn4_27 i4_Y i5_A 19.4973
Cg52 i5_A 0 3.585910e-17
Cg53 i4_Y 0 3.585910e-17
Cx26 i5_A 0 5.337830e-17
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 3.585910e-17
Cg55 i5_Y 0 3.585910e-17
Cx27 i6_A 0 5.337830e-17
Rn6_29 i6_Y i7_A 19.4973
Cg56 i7_A 0 4.020230e-17
Cg57 i6_Y 0 4.020230e-17
Cc25 i7_A i8_A 1.673050e-17
Cx28 i7_A 0 3.000230e-17
Cx29 i7_A 0 3.051790e-17
Rn7_30 i7_Y i8_A 30.2652
Cg58 i8_A 0 1.190210e-16
Cg59 i7_Y 0 1.190210e-16
Cc26 i8_A i9_A 2.808530e-17
Cx30 i8_A 0 5.338820e-17
Cx31 i8_A 0 7.797810e-18
Cx32 i8_A 0 1.933670e-17
Cx33 i8_A 0 1.257240e-16
Rn8_31 i8_Y i9_A 20.8277
Cg60 i9_A 0 1.194990e-16
Cg61 i8_Y 0 1.194990e-16
Cc27 i9_A i10_A 2.959480e-17
Rn9_32 i9_Y i10_A 21.4527
Cg62 i10_A 0 1.445420e-16
Cg63 i9_Y 0 1.445420e-16
Rout_33 buf_X s741_8 14.7464
Rout_34 s741_8 s741_10 52.0357
Rout_35 s741_10 s741_16 16.5179
Rout_36 s741_16 s741_20 45.8929
Cg64 buf_X 0 6.999170e-17
Cg65 s741_20 0 3.100800e-15
Cg66 s741_16 0 3.000790e-15
Cg67 s741_10 0 2.403100e-15
Cg68 s741_8 0 1.801230e-15
Cx34 s741_10 0 1.019590e-16
Cx35 s741_10 0 3.625450e-16
Cx36 s741_20 0 6.748150e-17
Cx37 s741_20 0 8.221210e-17
Cx38 s741_20 0 1.264390e-16
Cx39 s741_20 0 1.987050e-16
Cx40 s741_20 0 0.000000e+00
Cx41 s741_10 0 7.476010e-16
Cx42 s741_20 0 2.443140e-16
Cx43 s741_20 0 0.000000e+00
Cx44 s741_10 0 0.000000e+00
Cx45 s741_10 0 0.000000e+00
Cx46 s741_10 0 2.975660e-16
Cx47 s741_10 0 7.324320e-16
Cx48 s741_10 0 9.219580e-17
Cc28 EN s741_10 4.573800e-16
Cx49 s741_20 0 0.000000e+00
Cx50 s741_20 0 5.992210e-17
Cx51 s741_16 0 1.001180e-16
Cx52 s741_20 0 8.662280e-17
Cx53 s741_10 0 2.728510e-16
Cx54 s741_10 0 3.776500e-16
Cx55 s741_10 0 6.444290e-16
Cx56 s741_10 0 1.062990e-16
Cx57 s741_10 0 0.000000e+00
Cx58 s741_8 0 9.801730e-17
Cx59 s741_20 0 0.000000e+00
Cx60 s741_20 0 7.687360e-16
Cx61 s741_20 0 0.000000e+00
Cx62 s741_20 0 0.000000e+00
Cx63 s741_20 0 0.000000e+00
Cx64 s741_10 0 1.842190e-16
Cx65 s741_10 0 9.952870e-17

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
